US07247734B2
Synthesis of 2-(2-Bromo-phenyl)-1-(5-chloro-2,4-dihydroxy-phenyl)-ethanone
This compounds was synthesised in the same manner as described above. 2-Bromophenylacetic acid (5 g, 23.3 mmol), 4-chlororesorcinol (3.36 g, 23.3 mmol), boron trifloride etherate (20 ml). After standing for two hours a brown precipitate formed (7.4 g, 93.3%); Rf 0.4 hexane/ethyl acetate (70/30). This was shown to be the required product.

reactant | 2-Bromophenylacetic acid | 23.3 mmol, 5 g | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 4-chlororesorcinol | 23.3 mmol, 3.36 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | boron trifloride etherate | 20 ml | B(F)(F)F.CCOCC
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(2-Bromo-phenyl)-1-(5-chloro-2,4-dihydroxy-phenyl)-ethanone | BrC1=C(C=CC=C1)CC(=O)C1=C(C=C(C(=C1)Cl)O)O | C14H10BrClO3
